Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CCO[C:1](=[O:2])[c:3]1[c:4]([OH:5])[c:6](=[O:7])[n:8]2[c:9]([n:10]1)[CH:11]([NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C@:23]1([CH3:24])[CH2:25][CH2:26][C@H:27]([CH2:28]2)[C:29]1([CH3:30])[CH3:31].[NH2:32][CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1>>[C:1](=[O:2])([c:3]1[c:4]([OH:5])[c:6](=[O:7])[n:8]2[c:9]([n:10]1)[C@H:11]([NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C@:23]1([CH3:24])[CH2:25][CH2:26][C@H:27]([CH2:28]2)[C:29]1([CH3:30])[CH3:31])[NH:32][CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1,CC[O:101][C:1](=[O:2])[c:3]1[c:4]([OH:5])[c:6](=[O:7])[n:8]2[c:9]([n:10]1)[CH:11]([NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C@:23]1([CH3:24])[CH2:25][CH2:26][C@H:27]([CH2:28]2)[C:29]1([CH3:30])[CH3:31].[NH2:32][CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1>>[C:1](=[O:2])([c:3]1[c:4]([OH:5])[c:6](=[O:7])[n:8]2[c:9]([n:10]1)[C@H:11]([NH:12][C:13](=[O:14])[O:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C@:23]1([CH3:24])[CH2:25][CH2:26][C@H:27]([CH2:28]2)[C:29]1([CH3:30])[CH3:31])[NH:32][CH2:33][c:34]1[cH:35][cH:36][c:37]([F:38])[cH:39][cH:40]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(32, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)O[C:2]([CH3:1])=[O:3].[O:4]=[C:5]([CH2:6][CH2:7][CH:8]1[CH2:9][CH2:10][NH:11][CH2:12][CH2:13]1)[c:14]1[cH:15][c:16]2[c:17]3[c:18]([cH:19]1)[CH2:20][CH2:21][N:22]3[C:23](=[O:24])[CH2:25][CH2:26]2>>[CH3:1][C:2](=[O:3])[N:11]1[CH2:10][CH2:9][CH:8]([CH2:7][CH2:6][C:5](=[O:4])[c:14]2[cH:15][c:16]3[c:17]4[c:18]([cH:19]2)[CH2:20][CH2:21][N:22]4[C:23](=[O:24])[CH2:25][CH2:26]3)[CH2:13][CH2:12]1,[O:4]=[C:5]([CH2:6][CH2:7][CH:8]1[CH2:9][CH2:10][NH:11][CH2:12][CH2:13]1)[c:14]1[cH:15][c:16]2[c:17]3[c:18]([cH:19]1)[CH2:20][CH2:21][N:22]3[C:23](=[O:24])[CH2:25][CH2:26]2.CC(=O)[O:101][C:2]([CH3:1])=[O:3]>>[CH3:1][C:2](=[O:3])[N:11]1[CH2:10][CH2:9][CH:8]([CH2:7][CH2:6][C:5](=[O:4])[c:14]2[cH:15][c:16]3[c:17]4[c:18]([cH:19]2)[CH2:20][CH2:21][N:22]4[C:23](=[O:24])[CH2:25][CH2:26]3)[CH2:13][CH2:12]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(11, 2), ([2, 3], 3), (3, [3, 2]), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][c:6]([F:7])[cH:8]1.[O:9]=[C:10]([NH:11][CH2:12][CH2:13][c:14]1[cH:15][cH:16][c:17]([N+:18](=[O:19])[O-:20])[cH:21][cH:22]1)[C:23]([F:24])([F:25])[F:26]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([F:7])[cH:8]1)[N:11]([C:10](=[O:9])[C:23]([F:24])([F:25])[F:26])[CH2:12][CH2:13][c:14]1[cH:15][cH:16][c:17]([N+:18](=[O:19])[O-:20])[cH:21][cH:22]1,[O:9]=[C:10]([NH:11][CH2:12][CH2:13][c:14]1[cH:15][cH:16][c:17]([N+:18](=[O:19])[OH:20])[cH:21][cH:22]1)[C:23]([F:24])([F:25])[F:26].[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][c:6]([F:7])[cH:8]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([F:7])[cH:8]1)[N:11]([C:10](=[O:9])[C:23]([F:24])([F:25])[F:26])[CH2:12][CH2:13][c:14]1[cH:15][cH:16][c:17]([N+:18](=[O:19])[OH:20])[cH:21][cH:22]1,SN2,"[(11, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([F:11])[c:12]([CH2:13][OH:14])[cH:15]2)[c:16]2[n:17][cH:18][cH:19][cH:20][c:21]2[cH:22]1)[S:23]([CH3:24])(=[O:25])=[O:26]>>[CH3:1][C:2]([CH3:3])([c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([F:11])[c:12]([CH:13]=[O:14])[cH:15]2)[c:16]2[n:17][cH:18][cH:19][cH:20][c:21]2[cH:22]1)[S:23]([CH3:24])(=[O:25])=[O:26],[CH3:1][C:2]([CH3:3])([c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([F:11])[c:12]([CH2:13][OH:14])[cH:15]2)[c:16]2[n:17][cH:18][cH:19][cH:20][c:21]2[cH:22]1)[S:23]([CH3:24])(=[O:25])=[O:26].[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[CH3:1][C:2]([CH3:3])([c:4]1[cH:5][c:6](-[c:7]2[cH:8][cH:9][c:10]([F:11])[c:12]([CH:13]=[O:14])[cH:15]2)[c:16]2[n:17][cH:18][cH:19][cH:20][c:21]2[cH:22]1)[S:23]([CH3:24])(=[O:25])=[O:26],Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (14, 308), ([308, 306], 306), (306, 14.1), ([14.1, 14], 14), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 13.1), ([13.1, 13], [13, 14]), ([14, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
